US08106060B2
1-[(3-cyano-pyridin-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-amino-piperidin-1-yl]-xanthine monohydrochloride
5.00 g of 1-[(3-cyano-pyridin-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-amino-piperidin-1-yl]-xanthine base are dissolved in 50 ml of methanol. Then 3.0 ml of a 3.9 molar solution of hydrogen chloride in isopropanol are added. The solvent is distilled off and the residue is suspended in 40 ml ethyl acetate and refluxed, during which time a precipitate is formed. It is cooled to ambient temperature, the precipitate is filtered off and washed with a little ethyl acetate and dried.

reactant | 1-[(3-cyano-pyridin-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-amino-piperidin-1-yl]-xanthine | 5.00 g | C(#N)C=1C(=NC=CC1)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)N)C | C22H24N8O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-[(3-cyano-pyridin-2-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-amino-piperidin-1-yl]-xanthine monohydrochloride | Cl.C(#N)C=1C(=NC=CC1)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)N)C | InChI=1S/C22H24N8O2.ClH/c1-3-4-11-29-18-19(26-21(29)28-10-6-8-16(24)13-28)27(2)22(32)30(20(18)31)14-17-15(12-23)7-5-9-25-17;/h5,7,9,16H,6,8,10-11,13-14,24H2,1-2H3;1H/t16-;/m1./s1
